* C:\Users\leone\Documents\repos\C2\simulaciones\checkpoint3\reguladorB.asc
Q1 N006 Vref N014 0 TR1
Q2 N009 Vf N014 0 TR1
Q3 N007 N009 N001 0 2N2222
Q5 N014 N022 N029 0 BC547B
Q6 N022 N022 N028 0 BC547B
R1 Vref N022 100
R2 Vreg N003 0.1k
R3 Vreg N002 0.1k
Q7 N001 N007 Vreg 0 tip42C
Q8 N009 N006 N003 0 BC557B
Q9 N006 N006 N002 0 BC557B
V1 Vreg 0 6.25
V2 Vref 0 1.2
R7 N001 N004 2.2k
R8 Vo N008 2.2k
R9 N004 0 22k
R10 N008 Vs 22k
R11 N023 Vref 2.2k
R12 0 N023 910
R13 N018 N024 1k
R14 Vref-c N025 1k
R15 N018 N019 1k
R16 N017 Vf 1k
R17 0 N017 13k
R20 N016 Vref-c 2.2k
R23 N020 0 47
R24 N025 0 1k
R21 N015 N016 82k
R200 Vs N005 2.2k
R19 0 N005 82k
R4 N001 Vo 0.1
Q4 N009 N015 N020 0 2N2222
XU6 N018 N025 5v 0 Vref-c LM324
XU2 N004 N008 5v 0 Vs TLV2371
XU1 N005 N016 5v 0 N015 LM324
XU3 N017 N019 5v 0 N019 LM324
XU4 N023 N024 5v 0 N024 LM324
V3 5v 0 5
R5 Vo Vf 3.6k
R6 Vf N021 2.2k
R26 Vf N021 2.7k
R28 N027 N026 1k
V4 N027 0 6
R27 N021 0 1.2k
R18 N028 0 820
R25 N029 0 820
C3 N016 N015 10n
C1 Vo 0 1µ
C2 N009 0 22n
C4 Vo Vf 1n
V6 N013 0 1.2
XLM1 N013 0 VCC 0 N012 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Q10 N010 N012 0 0 BC547B
V5 VCC 0 6
R30 Vo 0 R=19*(1-time)
M1 N021 N026 0 0 BSB012N03LX3
.model NPN NPN
.model PNP PNP
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.mos
;step param RE 1k 1.5k 100
;param RL=6
.tran 0 0.99999 0
.include librerias/bd140.lib
.include librerias/complex_discretes.lib
* .op
* REFERENCIA
.inc opamp.sub
.lib librerias/LM324.ti.lib
* LIBRERIAS
* SIMULACIONES
.meas DC Vo1rl FIND V(Vo) AT=6.15
.meas DC Vo2rl FIND V(Vo) AT=6.35
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/1.85)
* Mido regulacion de linea
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido regulacion de carga
* -100*((V(vo)*I(RL))/(V(Vreg)*I(V1)))
* Mido eficiencia
* .dc V1 2 10 0.1
.param VINDC 6.25
.lib librerias/tlv2731.lib
.model SW SW(Ron=0.1 Roff=100Meg Vt=0.5 Vh=0.25)
* .ac dec 10 0.1 10Meg
* .tran 30m
.options reltol=0.01 abstol=1e-6
.lib UniversalOpAmp2.lib
.backanno
.end
